US06583135B2
tert-Butyl 10-bromo-6-(2-isobutoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.0412 g, 0.0859 mmol) was dissolved in CH2Cl2 (2 mL) and trifluoroacetic acid (1.0 mL, 1.48 g, 13.0 mmol, 151 equiv.) was added. The resulting solution was stirred at rt for 2.5 h. The reaction mixture was concentrated to dryness. The residue was taken up in EtOAc (2 mL), then treated with 1N HCl in Et2O. Hydrochloride salt formation did not occur and the resulting solution were concentrated to dryness. The residue was partitioned between EtOAc and 1N NaOH. The layers were separated, and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated. The crude isobutyl (10-bromo-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)acetate (0.0260 g) was obtained in 80% yield. 1H NMR (300 MHz, CD3OD) δ 0.85, 1.86, 2.98-3.03, 3.11-3.14, 3.53-3.56, 3.91, 5.02, 6.94, 7.18, 7.25; MS (ESI+) for C18H23BrN2O2 m/z 379.0 (M+H)+.

reactant | tert-Butyl 10-bromo-6-(2-isobutoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.0859 mmol, 0.0412 g | BrC=1C=2C3=C(N(C2C=CC1)CC(=O)OCC(C)C)CCN(CC3)C(=O)OC(C)(C)C | C23H31BrN2O4
reactant | trifluoroacetic acid | 13.0 mmol, 1.0 mL, 1.48 g, 151 equiv. | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | isobutyl (10-bromo-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)acetate | 0.0260 g, 80% yield | BrC=1C=2C3=C(N(C2C=CC1)CC(=O)OCC(C)C)CCNCC3 | C18H23BrN2O2
